US09328099B2
1-[4-(Cyanomethyl)-1-(cyclopropylcarbonyl)piperidin-4-yl]-3-(phenylamino)-1H-pyrazole-4-carboxamide
4-[4-Carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-4-(cyanomethyl)piperidinium trifluoroacetate (Intermediate #38-1) (20 mg, 0.05 mmol) was diluted with DMF (0.5 mL) and treated with cyclopropanecarboxylic acid (5 mg, 0.06 mmol), DIPEA (0.020 mL, 0.12 mmol) and 1,3,5,2,4,6-trioxatriphosphorinane-2,4,6-trioxide (0.040 mL, 0.060 mmol). The reaction mixture was heated to 40° C. and allowed to stir for 16 hours. The mixture was then cooled to ambient temperature, diluted with DMSO (1.0 mL), and purified by reverse-phase preparative HPLC (using a gradient elution of 5-95% MeCN/water, with 0.1% v/v NH4OH modifier). Desired fractions were identified, combined and concentrated in vacuo to afford the title compound, Example #34-1. 1H NMR (600 MHz, DMSO-d6): δ 9.09-9.00 (m, 1H), 8.50 (s, 1H), 7.55 (s, 1H), 7.48 (d, J=7.7 Hz, 2H), 7.26-7.17 (m, 2H), 7.15 (s, 1H), 6.80 (m, 1H), 4.09-3.90 (m, 2H), 3.18 (s, 2H), 2.47 (s, 2H), 2.35 (s, 2H), 2.07-1.97 (m, 2H), 1.95-1.87 (m, 1H), 0.74-0.62 (m, 4H).

reactant | 4-[4-Carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-4-(cyanomethyl)piperidinium trifluoroacetate | 0.05 mmol, 20 mg | FC(C(=O)[O-])(F)F.C(N)(=O)C=1C(=NN(C1)C1(CC[NH2+]CC1)CC#N)NC1=CC=CC=C1
reactant | cyclopropanecarboxylic acid | 0.06 mmol, 5 mg | C1(CC1)C(=O)O | C4H6O2
reactant | DIPEA | 0.12 mmol, 0.020 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,3,5,2,4,6-trioxatriphosphorinane-2,4,6-trioxide | 0.060 mmol, 0.040 mL | O1P(OP(OP1=O)=O)=O | H3O6P3
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | 1-[4-(Cyanomethyl)-1-(cyclopropylcarbonyl)piperidin-4-yl]-3-(phenylamino)-1H-pyrazole-4-carboxamide | C(#N)CC1(CCN(CC1)C(=O)C1CC1)N1N=C(C(=C1)C(=O)N)NC1=CC=CC=C1 | C21H24N6O2
